US07582657B2
(2E)-N-Benzothiazol-6-yl-3-[6-(tert-butyl)-2-methyl(3-pyridyl)]prop-2-enamide
Analogous to the procedure used to prepare Example 1, (2E)-3-[6-(tert-butyl)-2-methyl(3-pyridyl)]prop-2-enoic acid, Example 75(c), (220 mg, 1.0 mmol) and 6-aminobenzothiazole (150 mg, 1.0 mmol, Lancaster) provided, after purification by silica gel chromatography (55:45 hexane:EtOAc), the title compound as a pale yellow amorphous solid. MS (ESI, pos. ion) m/z: 352 (M+1).

reactant | (2E)-3-[6-(tert-butyl)-2-methyl(3-pyridyl)]prop-2-enoic acid | C(C)(C)(C)C1=CC=C(C(=N1)C)/C=C/C(=O)O | C13H17NO2
reactant | 6-aminobenzothiazole | 1.0 mmol, 150 mg | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
product | (2E)-N-Benzothiazol-6-yl-3-[6-(tert-butyl)-2-methyl(3-pyridyl)]prop-2-enamide | S1C=NC2=C1C=C(C=C2)NC(\C=C\C=2C(=NC(=CC2)C(C)(C)C)C)=O | C20H21N3OS
